US05250735
2.0 g of dimethylamine hydrochloride, 1.8 g of paraformaldehyde and 30 ml of ethanol were added with 3 drops of concentrated hydrochloric acid to 6.5 g of 2-(E)-(2-ethoxycarbonylmethoxylbenzylidene) cyclopentanone. After refluxing for about 2 hours, the resulting solution was treated with 0.7 g of paraformaldehyde and then refluxed for about 2 additional hours. After the solvent was removed in vacuo, a syrupy residue was obtained. Then 100 ml of water was added to the residue, stirred for about 10 minutes, and filtered. The filtrate was adjusted to about pH 9 by the addition of 10% sodium carbonate solution and extracted with three 20 ml portions of ether. The aqueous layer was again treated with 10% sodium carbonate solution to about pH 11 and extracted with two additional 20 ml portions of ether. The combined ether was dried over anhydrous magnesium sulfate and treated with ethanolic hydrogen chloride. It was filtered to give 4.7 g of product Recrystallization from absolute ethanol-acetone gave 4.2 g of 2-Dimethylaminomethyl-5-(E)-(2-ethoxycarbonylmethoxyl-benzylidene) cyclopentanone hydrochloride as a white powder product. The melting point of the product was determined to be 124°-126° C.

reactant | dimethylamine hydrochloride | 2.0 g | Cl.CNC
reactant | paraformaldehyde | 1.8 g | C=O | CH2O
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | 2-(E)-(2-ethoxycarbonylmethoxylbenzylidene) cyclopentanone | 6.5 g | C(C)OC(=O)COC1=C(\C=C/2\C(CCC2)=O)C=CC=C1 | C16H18O4
reactant | paraformaldehyde | 0.7 g | C=O | CH2O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 2-Dimethylaminomethyl-5-(E)-(2-ethoxycarbonylmethoxyl-benzylidene) cyclopentanone hydrochloride | 4.2 g | Cl.CN(C)CC1C(/C(/CC1)=C/C1=C(C=CC=C1)OCC(=O)OCC)=O | InChI=1S/C19H25NO4.ClH/c1-4-23-18(21)13-24-17-8-6-5-7-14(17)11-15-9-10-16(19(15)22)12-20(2)3;/h5-8,11,16H,4,9-10,12-13H2,1-3H3;1H/b15-11+;
